US08471005B2
To 4-{4-[7-(3-tert-Butylsulfamoyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-3-methoxy-phenyl}-piperidine-1-carboxylic acid tert-butyl ester (207.0 mg, 0.31 mmol) in 6.0 mL of DCM at room temperature was added hydrogen chloride gas. When deprotection was complete, ethyl acetate was added, and the precipitate was filtered and washed with ethyl acetate. The orange solid was taken up in water, treated with sat. NaHCO3 until aq. layer pH=13, and extracted with DCM. The organic layers were combined, dried with sodium sulfate, filtered, and conc. in vacuo to afford N-tert-Butyl-3-[2-(2-methoxy-4-piperidin-4-yl-phenylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-benzenesulfonamide as a burnt orange solid (65 mg, 39%). MP 201-202° C. LCMS (E/I+) 535.21 (M+H). 1H NMR (DMSO-d6)-9.01 (s, 1H), 8.56 (s, 1H), 8.36 (d, 1H, J=7.76 Hz), 7.99 (d, 1H, J=8.56 Hz), 7.85 (s, 1H), 7.83 (s, 1H), 7.69 (t, 1H, J=7.84 Hz), 7.23 (d, 1H, J=4.76 Hz), 7.01 (d, 1H, J=4.72 Hz), 6.95-6.89 (m, 2H), 3.32 (s, 3H), 3.10-2.98 (m, 2H), 2.69-2.52 (m, 2H), 1.78-1.69 (m, 2H), 1.69-1.44 (m, 2H), 1.12 (s, 9H).

reactant | 4-{4-[7-(3-tert-Butylsulfamoyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-3-methoxy-phenyl}-piperidine-1-carboxylic acid tert-butyl ester | 0.31 mmol, 207.0 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC(=C(C=C1)NC1=NN2C(C=N1)=CC=C2C2=CC(=CC=C2)S(NC(C)(C)C)(=O)=O)OC | C33H42N6O5S
reactant | hydrogen chloride | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DCM | 6.0 mL | C(Cl)Cl | CH2Cl2
product | N-tert-Butyl-3-[2-(2-methoxy-4-piperidin-4-yl-phenylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-benzenesulfonamide | 65 mg, 39% | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=CC=C2C=NC(=NN21)NC2=C(C=C(C=C2)C2CCNCC2)OC | C28H34N6O3S
